US08207168B2
A solution of 4-hydroxyphenylacetone (4.5 g, 30 mmol) and potassium carbonate (4.14 g, 3.0 eq.) in 50 mL of acetone was stirred under N2 as 1-bromo-3-chloro-propane was added dropwise. The reaction was heated to 80° C. overnight. The mixture was then filtered through celite, washed with acetone and concentrated to afford 1-[4-(3-chloro-propoxy)phenyl]propan-2-one (6.3 g, 93% yield): MS m/z 227 (M+H).

reactant | 4-hydroxyphenylacetone | 30 mmol, 4.5 g | OC1=CC=C(C=C1)CC(C)=O | C9H10O2
reactant | potassium carbonate | 4.14 g, 3.0 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloro-propane | BrCCCCl | C3H6BrCl
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 1-[4-(3-chloro-propoxy)phenyl]propan-2-one | 6.3 g, 93% yield | ClCCCOC1=CC=C(C=C1)CC(C)=O | C12H15ClO2
